US07662832B2
Step 1: (2-chloropyridin-3-yl)-hydrazine
A solution of 3-amino-2-chloropyridine (5 g, 38.9 mmol) in concentrated hydrochloric acid (50 ml) was cooled to −5° C. and a solution of sodium nitrite (2.7 g, 38.9 mmol) in water (25 ml) was added thereto. The reaction mixture was stirred for 15 minutes at 0° C. and a solution of tin(II) chloride dihydrate (17.6 g, 77.8 mmol) in concentrated hydrochloric acid (17.5 ml) was slowly added thereto. The reaction mixture was stirred for 1 hour at room temperature, basified with 2N sodium hydroxide solution, and then extracted with dichloromethane. The organic layer was dried on anhydrous magnesium sulfate, filtered, and then concentrated under reduced pressure. The resulting residue was crystallized with ethyl ether to give 2 g of the titled compound as a pale yellow solid. (Yield: 36%).

reactant | 3-amino-2-chloropyridine | 38.9 mmol, 5 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | sodium nitrite | 38.9 mmol, 2.7 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 77.8 mmol, 17.6 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | hydrochloric acid | 17.5 ml | Cl | ClH
product | (2-chloropyridin-3-yl)-hydrazine | 2 g, Yield: 36% | ClC1=NC=CC=C1NN | C5H6ClN3
